US04923868
Ethyl 8-fluoro-2,3,4,6-tetrahydro-9-(4-methyl-1-piperazinyl)-6-oxo-1H-benzo[c]quinolizine-5-carboxylate
A mixture of 0.35 g of ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylate and 0.47 g of 10% palladium-on-carbon in 50 ml of trifluoroacetic acid was shaken under 40 lb. of hydrogen in a Parr apparatus for 18 hours. The mixture was filtered and the solvent evaporated. The concentrate was partitioned between aqueous potassium carbonate and dichloromethane. The organic layer was dried and the solvent removed giving 0.32 g of the desired compound, mp 163°-165° C.

reactant | ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylate | 0.35 g | FC=1C(=CC2=C(C(C(=C3C=CC=CN23)C(=O)OCC)=O)C1)N1CCN(CC1)C | C21H22FN3O3
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium-on-carbon | 0.47 g | [Pd] | Pd
product | Ethyl 8-fluoro-2,3,4,6-tetrahydro-9-(4-methyl-1-piperazinyl)-6-oxo-1H-benzo[c]quinolizine-5-carboxylate | 0.32 g | FC=1C(=CC2=C(C(C(=C3CCCCN23)C(=O)OCC)=O)C1)N1CCN(CC1)C | C21H26FN3O3
